US06437147B1
1-Phenyl-3-(4,5,6,7-tetrahydro-1H-benzimidazol-5-yl)thiourea
A mixture of 5-amino-4,5,6,7-tetrahydro-1H-benzimidazole, dihydrochloride (210 mg, 1.0 mmol), ethanol (1 ml), triethylamine (0.276 ml, 2.0 mmol) and phenylisothiocyanate (270 mg, 2.0 mmol) was stirred for 3 hours at ambient temperature. 1 N hydrochloric acid (20 ml), DCM (50 ml) and H2O (20 ml) were added. The phases were separated and the aqueous phase was washed with DCM (3×25 ml) and then made alkaline with 4 N sodium hydroxide. The alkaline mixture was extracted with DCM (2×20 ml) and the combined organic extracts were dried (magnesium sulphate). The solvent was evaporated in vacuo to give 140 mg (52%) of the title compound.

reactant | 5-amino-4,5,6,7-tetrahydro-1H-benzimidazole, dihydrochloride | 1.0 mmol, 210 mg | Cl.Cl.NC1CC2=C(NC=N2)CC1
reactant | triethylamine | 2.0 mmol, 0.276 ml | C(C)N(CC)CC | C6H15N
reactant | phenylisothiocyanate | 2.0 mmol, 270 mg | C1(=CC=CC=C1)N=C=S | C7H5NS
reactant | hydrochloric acid | 1 N, 20 ml | Cl | ClH
solvent | H2O | 20 ml | O | H2O
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 1-Phenyl-3-(4,5,6,7-tetrahydro-1H-benzimidazol-5-yl)thiourea | 140 mg, 52% | C1(=CC=CC=C1)NC(=S)NC1CC2=C(NC=N2)CC1 | C14H16N4S
